US07173045B2
The non-polar diastereoisomer of (4-aminomethyl-1-phenylcyclohexyl)dimethylamine (232 mg, 1.0 mmol.) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (415 mg, 1.5 mmol.) were added to a solution of 5-(1H-indol-3-yl)pentanoic acid (217 mg, 1.0 mmol.) in abs. methanol. Stirring was then carried out for 24 h at RT. For working up, the mixture was concentrated, the residue was suspended in water (10 ml), the pH was adjusted to 11 with 5M NaOH, and extraction was carried out with EE (4×10 ml). The organic phase was washed with 1M NaOH, dried, filtered and concentrated. The residue was purified by flash chromatography on silica gel (50 g) with methanol/EE (1 ml/3.5 l) and the non-polar diastereoisomer of 5-(1H-indol-3-yl)pentanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide (306 mg) was isolated. 190 mg (0.44 mmol.) thereof were dissolved in 2-butanone; chlorotrimethylsilane (84 μl, 0.7 mmol.) was added, and stirring was carried out for 2 h. The solvent was decanted off, and the tacky solid was washed with cold 2-butanone (2×1 ml) and cold ether (3×1.5 ml) and dried in vacuo. The hydrochloride of the non-polar diastereoisomer of 5-(1H-indol-3-yl)pentanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide was obtained in a yield of 184 mg (pale-pink solid, m.p. 120–130° C.).

reactant | (4-aminomethyl-1-phenylcyclohexyl)dimethylamine | 1.0 mmol, 232 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 1.5 mmol, 415 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 5-(1H-indol-3-yl)pentanoic acid | 1.0 mmol, 217 mg | N1C=C(C2=CC=CC=C12)CCCCC(=O)O | C13H15NO2
solvent | methanol | CO | CH4O
product | 5-(1H-indol-3-yl)pentanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide | 306 mg | CN(C1(CCC(CC1)CNC(CCCCC1=CNC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C28H37N3O
